
* Common anode diode pair
* The Spice diode model requires pin 1 as anode and pin 2 as cathode (1 ⎯▷|⎯ 2)
* 1 ⎯|◁⎯ 2 ⎯▷|⎯ 3
.SUBCKT DIODE_PAIR_CA 1 2 3 PARAMS: VJ1=0.3 VJ2=0.3
.model DCA1 D VJ={VJ1}
.model DCA2 D VJ={VJ2}
D1 2 1 DCA1
D2 2 3 DCA2
.ENDS

* Common cathode diode pair
* The Spice diode model requires pin 1 as anode and pin 2 as cathode (1 ⎯▷|⎯ 2)
*  1 ⎯▷|⎯ 2 ⎯|◁⎯ 3
.SUBCKT DIODE_PAIR_CC 1 2 3 PARAMS: VJ1=0.3 VJ2=0.3
.model DCC1 D VJ={VJ1}
.model DCC2 D VJ={VJ2}
D1 1 2 DCC1
D2 3 2 DCC2
.ENDS