*--------------------- Linear Potentiometer ---------------------
*     All pots have this kind of layout unless noted otherwise
* 0.0 -----> 1.0
*        |2
*      __V__
*  1--|_____|--3
*        
*  o--R1-o-R2--o
*
.SUBCKT LINEAR_POTENTIOMETER 1 2 3 PARAMS: POT_VAL=5k SET=0.5
* Parameters: POT_VAL, SET
* POT_VAL: Max resistance of the potentiometer. Ohms; POT_VAL >= 0
* SET = ratio of travel of the potentiometer. Unitless; 0 <= SET <= 1
* Example: POT_LINEAR POT_VAL=5k SET=0.5
.param set_clipped=limit(0,SET,1)
R1 1 2 {POT_VAL*(set_clipped) + 0.0001}
R2 2 3 {POT_VAL*(1-set_clipped) + 0.0001}
.ENDS