** Spice models for Marantz 2225 PE01 (preamp / tone board) **

* --------------------- KSC1845 BJT Transistor (NPN) ---------------------
* Product: KSC1845
* Type: NPN
* Package: TO-92
* NPN Epitaxial Silicon Transistor
* Note: Complement to KSA992 (PNP)
* Source: https://www.diyaudio.com/community/threads/tweaked-ksc1845-ksa992-ltspice-models.367523/
* Derived from https://www.onsemi.com/pub/Collateral/KSC1845.lib
.model KSC1845 NPN (
+IS = 52.5f NF = 1.0 BF = 408 VAF = 150
+ISE = 4f NE = 1.5 IKF = 0.8
+RC = 0.28 RE = 0.15 RB = 40 RBM = 4.0 IRB = 250u
+ISC = 1.9p NR = 1.0 BR = 15 VAR = 20 NC = 1.3
+CJC = 4.8p VJC = 0.6 MJC = 0.29 TF = 149p VTF = 4.0
+CJE = 26.5p VJE = 0.73 MJE = 0.162
+RCO = 105 VO = 2.2 GAMMA = 1.6u QCO = 2p QUASIMOD = 1
+EG = 1.181 TR = 10n XTB = 1.728 )

* --------------------- KSA992 BJT Transistor (PNP) ---------------------
* Product: KSA992
* Type: PNP
* Package: TO-92
* PNP Epitaxial Silicon Transistor
* Note: Complement to KSC1845 (NPN)
* Source: https://www.diyaudio.com/community/threads/tweaked-ksc1845-ksa992-ltspice-models.367523/
* Derived from: https://www.onsemi.com/pub/Collateral/KSA992.lib
.model KSA992 PNP (
+IS = 48.3f NF = 1.0 BF = 395 VAF = 65
+ISE = 0.5f NE = 1.5 IKF = 0.25
+RC = 48m RE = 4.4m RB = 25 RBM = 2.5 IRB = 3.8m
+ISC = 1.8p NR = 1.0 BR = 5.9 VAR = 12 NC = 1.3
+CJC = 7p VJC = 0.6 MJC = 0.32 TF = 365p VTF = 4.0
+CJE = 25p VJE = 0.855 MJE = 0.4404 ITF = 0.75 XTF = 1.13k
+RCO = 55 VO = 3.0 GAMMA = 490n QCO = 300f QUASIMOD = 1
+EG = 1.16 TR = 10n XTB = 1.285 )

*--------------------- 2-gang Linear Potentiometer ---------------------
*     All pots have this kind of layout unless noted otherwise
* 0.0 -----> 1.0
*        |2
*      __V__
*  1--|_____|--3
*        
*  o--R1-o-R2--o
*
* Parameters: POT_VAL, SET
* POT_VAL: Max resistance of the potentiometer. Ohms; POT_VAL >= 0
* SET = ratio of travel of the potentiometer. Unitless; 0 <= SET <= 1
* Example: POT_LINEAR_2GANG POT_VAL=100k SET=0.5
.SUBCKT POT_LINEAR_2GANG 1 2 3 4 5 6 PARAMS: POT_VAL=100k SET=0.5
.param set_clipped=limit(0,SET,1)
R1 1 2 {POT_VAL*(set_clipped) + 0.0001}
R2 2 3 {POT_VAL*(1-set_clipped) + 0.0001}
R3 5 6 {POT_VAL*(set_clipped) + 0.0001}
R4 4 5 {POT_VAL*(1-set_clipped) + 0.0001}
.ENDS
